US07173048B2
6.1 g (29.15 mmol) of N-benzyl indoline were treated with 6.75 g (30.7 mmol) of hexafluoroacetone sesquihydrate and stirred for one week at RT. Distribution between a saturated aqueous solution of NH4Cl and Et2O, drying of the organic phase over Na2SO4, evaporation of the solvent and column chromatography on silica gel (n-heptane/EtOAc 5:1) yielded 8.6 g (78%) of 2-(1-benzyl-2,3-dihydro-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol, pink oil, MS: 376 (MH+).

reactant | N-benzyl indoline | 29.15 mmol, 6.1 g | C(C1=CC=CC=C1)N1CCC2=CC=CC=C12 | C15H15N
reactant | hexafluoroacetone sesquihydrate | 30.7 mmol, 6.75 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
product | 2-(1-benzyl-2,3-dihydro-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 8.6 g, 78% | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O | C18H15F6NO
